US07179822B2
Step 2: [4-(5-{3-[3-(4-fluorophenyl)prop-1-ynyl]phenyl}tetrazol-2-ylmethyl)phenoxy]acetic acid tert-butyl ester
This reaction was carried out as described in Example D1, Step (c) using 1-fluoro-4-prop-2-ynyl-benzene (0.23 g, 1.7 mmol) and {4-[5-(3-bromophenyl) tetrazol-2-ylmethyl]phenoxy}acetic acid tert-butyl ester (0.30 g, 0.67 mmol) in place of 4-[5-(3-bromophenyl)tetrazol-2-ylmethyl]-benzenesulfonic acid, sodium salt. This afforded 0.23 g of the product (68.5% yield).

reactant | 1-fluoro-4-prop-2-ynyl-benzene | 1.7 mmol, 0.23 g | FC1=CC=C(C=C1)CC#C | C9H7F
reactant | {4-[5-(3-bromophenyl) tetrazol-2-ylmethyl]phenoxy}acetic acid tert-butyl ester | 0.67 mmol, 0.30 g | C(C)(C)(C)OC(COC1=CC=C(C=C1)CN1N=C(N=N1)C1=CC(=CC=C1)Br)=O | C20H21BrN4O3
reactant | sodium | [Na] | Na
product | [4-(5-{3-[3-(4-fluorophenyl)prop-1-ynyl]phenyl}tetrazol-2-ylmethyl)phenoxy]acetic acid tert-butyl ester | 0.23 g, 68.5% yield | C(C)(C)(C)OC(COC1=CC=C(C=C1)CN1N=C(N=N1)C1=CC(=CC=C1)C#CCC1=CC=C(C=C1)F)=O | C29H27FN4O3
